US04009205
A. Preparation of 4- Acetamino-3-methyl-nitrobenzene
349.6g (2.3 moles) of 4-amino-3-methyl-nitrobenzene were dissolved in 500g of tetrahydrofuran, 500g of acetic acid were added thereto, and 500g (3.5 moles) of acetic anhydride were added dropwise while stirring and heating at 70° to 80° C, and, after the completion of the acetic acid addition, the entire reaction system was reacted for 1 hour under reflux and then was allowed to cool whereby crystals were formed. The crystals were separated, filtered out and then dried.

reactant | 4-amino-3-methyl-nitrobenzene | NC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H8N2O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4- Acetamino-3-methyl-nitrobenzene | N(C(=O)C)C1=C(C=C(C=C1)[N+](=O)[O-])C | C9H10N2O3
